US05264429
A mixture of t-butyl 7α-bromo-3-methyl-3-cephem -4-carboxylate 1,1-dioxide (700 mg, 1.9 mmol), dimethylamine hydrochloride (460 mg, 5.7 mmol), methylene chloride (3 ml) and t-butyl alcohol (50 ml), formaldehyde (0.57 g, 37% w/v) was heated to reflux at 80°-90° C. for 20 hours. t-Butyl alcohol was removed under reduced pressure and the residue was dissolved in methylene chloride, washed with water, brine, dried and concentrated to give 200 mg of crude product which was purified over silica column using methylene chloride as eluant to give 40 mg of pure t-butyl 7α-bromo-2-methylene-3-methyl-3-cephem-4-carboxylate 1,1-dioxide.

reactant | t-butyl 7α-bromo-3-methyl-3-cephem -4-carboxylate 1,1-dioxide | 1.9 mmol, 700 mg | Br[C@@H]1[C@@H]2N(C(=C(CS2(=O)=O)C)C(=O)OC(C)(C)C)C1=O | C12H16BrNO5S
reactant | dimethylamine hydrochloride | 5.7 mmol, 460 mg | Cl.CNC
reactant | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
reactant | formaldehyde | 0.57 g | C=O | CH2O
solvent | t-butyl alcohol | 50 ml | C(C)(C)(C)O | C4H10O
product | t-butyl 7α-bromo-2-methylene-3-methyl-3-cephem-4-carboxylate 1,1-dioxide | 40 mg | Br[C@@H]1[C@@H]2N(C(=C(C(S2(=O)=O)=C)C)C(=O)OC(C)(C)C)C1=O | C13H16BrNO5S
